US05405964
A mixture of 1.02 g of valeric acid, 4.50 g of 4-amino-1,2-dihydro-2-oxo-3-(4-(2-(1H-5-tetrazolyl)-3-thienyl)benzylamino)-1-(N,N-dimethylcarbamoylmethyl)pyridine [obtainable by reaction of 3-amino-4-benzylamino-1,2-dihydro-2-oxo-1-(N,N-dimethylcarbamoylmethyl)pyridin with IIa to give 4-benzylamino-3-oxo-1-(N,N-dimethylcarbamoylmethyl)pyridine, reaction with trimethyltin azide to give 4-benzylamino-1,2-dihydro-2-oxo-3-(4-(2-(1H-5-tetrazolyl)-3-thienyl)benzylamino)-1-(N,N-dimethylcarbamoylmethyl)pyridine and hydrogenolytic removal of the benzyl group] and 50 g of polyphosphoric acid is heated for 5 hours at 140°. 4-Amino-1,2-dihydro-2-oxo-3-(N-4-(2-(1H-5-tetrazolyl)-3-thienyl)benzyl-N-valerylamino)-1-(N,N-dimethylcarbamoylmethyl)pyridine and 1,2-dihydro-2-oxo-3-(4-(2-(1H-5-tetrazolyl)-3-thienylbenzylamino)-1-(N,N-dimethylcarbamoylmethyl)-4-valerylaminopyridine are formed in situ as intermediates. The mixture is cooled, poured onto ice, rendered alkaline with sodium hydroxide solution and worked up in the conventional manner, and gives 2-butyl-3-(4-(2-(1H-5 -tetrazolyl)-3-thienyl)benzyl-4,5-dihydro-4-oxo-5-(N,N-dimethylcarbamoylmethyl)-3H-IP.

reactant | valeric acid | 1.02 g | C(CCCC)(=O)O | C5H10O2
reactant | 4-amino-1,2-dihydro-2-oxo-3-(4-(2-(1H-5-tetrazolyl)-3-thienyl)benzylamino)-1-(N,N-dimethylcarbamoylmethyl)pyridine | 4.50 g | NC1=C(C(N(C=C1)CC(N(C)C)=O)=O)NCC1=CC=C(C=C1)C1=C(SC=C1)C1=NN=NN1 | C21H22N8O2S
reactant | 3-amino-4-benzylamino-1,2-dihydro-2-oxo-1-(N,N-dimethylcarbamoylmethyl)pyridin | NC=1C(N(C=CC1NCC1=CC=CC=C1)CC(N(C)C)=O)=O | C16H20N4O2
reactant | 4-benzylamino-3-oxo-1-(N,N-dimethylcarbamoylmethyl)pyridine | C(C1=CC=CC=C1)NC1C(CN(C=C1)CC(N(C)C)=O)=O | C16H21N3O2
reactant | trimethyltin azide | C[Sn](C)(C)N=[N+]=[N-]
product | 4-(2-(1H-5-tetrazolyl)-3-thienylbenzylamino)-1-(N,N-dimethylcarbamoylmethyl)-4-valerylaminopyridine | N1N=NN=C1C=1SC=CC1N(C1(C=CN(C=C1)CC(N(C)C)=O)NC(CCCC)=O)CC1=CC=CC=C1 | C26H32N8O2S
